US07041696B2
Preparation of 2,6-dimethyl-benzoic acid 4-tert-butoxycarbonyl-3-({6-[(naphthalene-2-carbonyl)-amino]-5-oxo-1,2,3,5,6,7,10,10a-octahydro-pyrrolo[1,2-a]azocine-3-carbonyl}-amino)-2-oxo-butyl ester (112):
To a solution of 6-[(naphthalene-2-carbonyl)-amino]-5-oxo-1,2,3,5,6,7,10,10a-octahydro-pyrrolo[1,2-a]azocine-3-carboxylic acid, (124 mg, 0.33 mmol)in dichloromethane is added EDCI (191 mg, 1 mmol), 2,6-dimethyl-benzoic acid 3-amino-4-tert-butoxycarbonyl-2-oxo-butyl ester, 111, (200 mg, 0.62 mmol), and triethylamine (150 ul). After consumption of the starting material, the reaction is washed with 1N HCl (1×50 ml), water (1×50 ml), and brine (1×50 ml). The CHCl2 is reduced in vacuo. The residue is used directly in the next step without purification. ESI MS 696.1 (M+H).

reactant | 6-[(naphthalene-2-carbonyl)-amino]-5-oxo-1,2,3,5,6,7,10,10a-octahydro-pyrrolo[1,2-a]azocine-3-carboxylic acid | 0.33 mmol, 124 mg | C1=C(C=CC2=CC=CC=C12)C(=O)NC1CC=CCC2N(C1=O)C(CC2)C(=O)O | C22H22N2O4
reactant | EDCI | 1 mmol, 191 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | 2,6-dimethyl-benzoic acid 3-amino-4-tert-butoxycarbonyl-2-oxo-butyl ester | NC(C(COC(C1=C(C=CC=C1C)C)=O)=O)CC(=O)OC(C)(C)C | C18H25NO5
reactant | triethylamine | 150 ul | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2,6-dimethyl-benzoic acid 4-tert-butoxycarbonyl-3-({6-[(naphthalene-2-carbonyl)-amino]-5-oxo-1,2,3,5,6,7,10,10a-octahydro-pyrrolo[1,2-a]azocine-3-carbonyl}-amino)-2-oxo-butyl ester | C(C)(C)(C)OC(=O)CC(C(COC(C1=C(C=CC=C1C)C)=O)=O)NC(=O)C1CCC2N1C(C(CC=CC2)NC(=O)C2=CC1=CC=CC=C1C=C2)=O | C40H45N3O8
